US05082358
A vinylbiphenyl polymer was prepared in the same manner as in Example 10 except that poly-p-bromostyrene obtained as in Example 10 by using p-bromostyrene instead of p-chlorostyrene, and o-bromoanisol were used. The polymer gave a peak of OCH3 through 1H-NMR measurement in the same manner as in Example 10.

reactant | p-bromostyrene | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | o-bromoanisol | BrC1=C(C=CC=C1)OC | C7H7BrO
product | vinylbiphenyl | C(=C)C1=C(C=CC=C1)C1=CC=CC=C1 | C14H12
